US05773624
To a suspension of methyl 2-fluoromethoxyimino-2-(5-amino-1,2,4-thiadiazole-3-yl)-acetate (anti-isomer) (1.17 g, 5 mmol) in formic acid (1.38 g, 30 mmol), acetic anhydride (1.12 g, 10 mmol) was added. The mixture was treated in the same procedure as described in Example 9 to give methyl 2-fluoromethoxyimino-2-(5-formamido-1,2,4-thiadiazole-3-yl)-acetate (syn-isomer) (991 mg, yield: 73.8%).

reactant | methyl 2-fluoromethoxyimino-2-(5-amino-1,2,4-thiadiazole-3-yl)-acetate | 5 mmol, 1.17 g | FCON=C(C(=O)OC)C1=NSC(=N1)N | C6H7FN4O3S
reactant | formic acid | 30 mmol, 1.38 g | C(=O)O | CH2O2
reactant | acetic anhydride | 10 mmol, 1.12 g | C(C)(=O)OC(C)=O | C4H6O3
product | methyl 2-fluoromethoxyimino-2-(5-formamido-1,2,4-thiadiazole-3-yl)-acetate | 991 mg, yield: 73.8% | FCON=C(C(=O)OC)C1=NSC(=N1)NC=O | C7H7FN4O4S
